US06518257B1
(i) Production of 3-bromo-N-ethylbenzamide
To a solution of sodium hydroxide (3.80 g) in methanol (50 ml)—water (15 ml) was added by portions ethylamine hydrochloride (7.80 g) at 0° C. and the mixture was stirred for 5 min. 3-Bromobenzoyl chloride (5.53 g) was added dropwise and the mixture was stirrd at room temperature for 1 h. Methanol was evaporated under reduced pressure, and ethyl acetate was added to the residue for partitioning. The organic layer was washed with water and brine, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was recrystallized from hexane-ethyl acetate to give the title compound (5.47 g) as colorless powder crystals.

reactant | sodium hydroxide | 3.80 g | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
reactant | ethylamine hydrochloride | 7.80 g | Cl.C(C)N
reactant | 3-Bromobenzoyl chloride | 5.53 g | BrC=1C=C(C(=O)Cl)C=CC1 | C7H4BrClO
solvent | methanol | 50 ml | CO | CH4O
product | 3-bromo-N-ethylbenzamide | 5.47 g | BrC=1C=C(C(=O)NCC)C=CC1 | C9H10BrNO
